US07482336B2
Step E: trans Methyl 8-(2,4,5-trifluorophenyl)-1,4-dioxaspiro[4.5]decane-7-carboxylate
To a stirred solution of 8-(2,4,5-trifluorophenyl)-1,4-dioxaspiro[4.5]decane-7-carboxylate (1.95 g, 5.9 mmol) in methanol (50 mL) was added sodium methoxide (0.5M in methanol, 14.2 ml, 7.1 mmol), and the resulting solution was refluxed overnight under a nitrogen atmosphere, cooled to room temperature and evaporated to yield the crude product which was purified by chromatography on a Biotage® system (silica gel, ethyl acetate in hexanes gradient 25-54%) to yield the title compound containing some cis isomer.

reactant | 8-(2,4,5-trifluorophenyl)-1,4-dioxaspiro[4.5]decane-7-carboxylate | 5.9 mmol, 1.95 g | FC1=C(C=C(C(=C1)F)F)C1C(CC2(OCCO2)CC1)C(=O)[O-]
reactant | sodium methoxide | 7.1 mmol, 0.5M, 14.2 ml | C[O-].[Na+]
solvent | methanol | 50 mL | CO | CH4O
product | trans Methyl 8-(2,4,5-trifluorophenyl)-1,4-dioxaspiro[4.5]decane-7-carboxylate | FC1=C(C=C(C(=C1)F)F)[C@H]1[C@@H](CC2(OCCO2)CC1)C(=O)OC | C16H17F3O4
